US05095172
To a plastic bottle were charged 2.62 grams of n-butanol and 2.73 grams of BF3 were bubbled into the bottle to provide a BF3 /n-butanol mole ratio of about 0.99/1. The bottle was cooled and 109.3 grams of a mixture of olefins having the composition set out in Table I were added. The temperature of the reaction mixture after adding the olefins was about 35° C. and the reaction mixture was immediately cooled in a water-ice bath to about 5° to 10° C. Samples of the mixture were taken at 5, 10 and 30 minute intervals, quenched and analyzed by gas chromatography (G. C.) The analysis is shown in Table I in area percent.

reactant | BF3 | 2.73 grams | B(F)(F)F | BF3
reactant | n-butanol | 2.62 grams | C(CCC)O | C4H10O
product | BF3 n-butanol | B(F)(F)F.C(CCC)O | InChI=1S/C4H10O.BF3/c1-2-3-4-5;2-1(3)4/h5H,2-4H2,1H3;
